US06268391B1
6-Bromo-1,3-dihydro-indol-2-one (0.621 g, 2.93 mmol), tributyltin cyanide 1.11 g, 3.5 mmol), tetraammonium chloride hydrate (0.97 g, 5.9 mmol), dichlorobis(triphenylphosphine)palladium(II) (0.21 g, 0.3 mmol) and tetrakis (triphenylphosphine)palladium(0) (0.342 g, 0.3 mmol) were treated with dichloroethane (100 mL) and the reaction refluxed for 16 h under nitrogen with stirring. A further addition of tetrakis (triphenylphosphine)palladium(0) (0.23 g, 0.2 mmol) was made and reflux continued a further 6 h. A third addition of tetrakis (triphenylphosphine)palladium(0) (0.345 9, 0.3 mmol) was made and the reaction returned to reflux for 16 h. On cooling the reaction solution was washed twice with an aqueous solution of potassium fluoride (50 mL) and the organic phase dried over magnesium sulfate, filtered and evaporated to dryness. The product was subjected to chromatography on silica gel using dichloromethane to give 140 mg of 6-cyano-1,3-dihydro-indol-2-one contaminated with triphenylphosphine oxide. A second chromatographic purification chromatography on silica gel using dichloromethane gave 61 mg of pure 6-cyano-1,3-dihydro-indol-2-one; 1H-NMR (DMSO-d6): δ10.64 (bs, 1H), 7.37 (s, 2H), 7.10 (s, 1H), 3.56 (s, 2H). Mass spectrum (negative ion electrospray): m/z=157 (M−1, 100%).

reactant | 6-Bromo-1,3-dihydro-indol-2-one | 2.93 mmol, 0.621 g | BrC1=CC=C2CC(NC2=C1)=O | C8H6BrNO
reactant | tributyltin cyanide | 3.5 mmol, 1.11 g | C(CCC)[Sn](CCCC)(CCCC)C#N
reactant | tetraammonium chloride hydrate | 5.9 mmol, 0.97 g | O.[Cl-].[NH4+].[NH4+].[NH4+].[NH4+].[Cl-].[Cl-].[Cl-]
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.3 mmol, 0.21 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
product | 6-cyano-1,3-dihydro-indol-2-one | 140 mg | C(#N)C1=CC=C2CC(NC2=C1)=O | C9H6N2O
